US06559143B1
(i) 4-[1-(3,4-Dimethoxyphenoxy)-3-butenyl]benzonitrile
A cooled (0° C.) mixture of 4-(1-hydroxy-3-butenyl)benzonitrile (14.6 g, 84.3 mmol) and 3,4-dimethoxyphenol (19.5 g, 125.4 mmol) in toluene (500 mL) was treated with tributylphosphine (32.14 mL of 97% purity, 25.6 g, 126.4 mmol), followed by 1,1′-(azodicarbonyl)dipiperidine (31.8 g, 126.4 mmol). After addition was complete, the reaction mixture thickened and the temperature rose to 15° C. Additional toluene was added (500 mL), and the mixture stirred at rt overnight. The precipitate of tributylphosphine oxide was then removed by filtration and the filtrate concentrated in vacuo to give 65.8 g of crude product. This was purified by chromatography on silica gel, eluting with toluene:methanol (98:2), to yield 17.9 g of the sub-title compound.

reactant | 4-(1-hydroxy-3-butenyl)benzonitrile | 84.3 mmol, 14.6 g | OC(CC=C)C1=CC=C(C#N)C=C1 | C11H11NO
reactant | 3,4-dimethoxyphenol | 125.4 mmol, 19.5 g | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | tributylphosphine | 126.4 mmol, 32.14 mL, 25.6 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 126.4 mmol, 31.8 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(3,4-Dimethoxyphenoxy)-3-butenyl]benzonitrile | 17.9 g | COC=1C=C(OC(CC=C)C2=CC=C(C#N)C=C2)C=CC1OC | C19H19NO3
